US04010279
4-[2-(2-Methoxy-benzamido)-ethyl]-4'-hydroxy-biphenyl
A solution of 9 gm (42 millimols) of 4-[2-aminoethyl]-4'-hydroxy-biphenyl in a solution of 1.72 gm (43 millimols) of sodium hydroxide in 100 ml of a mixture of water/dioxane (1:1) was acylated at 0° C with a solution of 13 gm (76 millimols) of 2-methoxybenzoyl chloride in 50 ml of dioxane, while maintaining the pH at 10 by periodic addition of sodium hydroxide. After all of the acid chloride had been added, the mixture was stirred at room temperature for 2 hours, and then the pH of the resulting suspension was adjusted to between 4 and 5 by addition of 2 N hydrochloric acid. The suspension was now extracted with chloroform. After extraction with a dilute sodium bicarbonate solution, the chloroform phase was dried with sodium sulfate, evaporated, and the residue was recrystallized from ethyl acetate. Yield: 8.7 gm (59% of theory); m.p. 118° C.

reactant | 4-[2-aminoethyl]-4'-hydroxy-biphenyl | 42 millimols, 9 gm | NCCC1=CC=C(C=C1)C1=CC=C(C=C1)O | C14H15NO
reactant | sodium hydroxide | 43 millimols, 1.72 gm | [OH-].[Na+]
reactant | 2-methoxybenzoyl chloride | 76 millimols, 13 gm | COC1=C(C(=O)Cl)C=CC=C1 | C8H7ClO2
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
solvent | water dioxane | O.O1CCOCC1
product | 4-[2-(2-Methoxy-benzamido)-ethyl]-4'-hydroxy-biphenyl | COC1=C(C(=O)NCCC2=CC=C(C=C2)C2=CC=C(C=C2)O)C=CC=C1 | C22H21NO3
